US08466186B2
(e) 4-Chloro-5-(3,3-difluoropyrrolidin-1-yl)benzene-1,2-diamine dihydrochloride
A mixture of 4-chloro-5-(3,3-difluoropyrrolidin-1-yl)-2-nitroaniline (300 mg, 1.1 mmol), THF (10 mL) and Pd/C (20 mg) was stirred for 1.5 days at RT under a hydrogen atmosphere (3.0 bar). The catalyst was removed by filtration. To the filtrate was added 4 M HCl in dioxane (10 mL). The mixture was concentrated and used in the next step without further purification.

reactant | 4-chloro-5-(3,3-difluoropyrrolidin-1-yl)-2-nitroaniline | 1.1 mmol, 300 mg | ClC1=CC(=C(N)C=C1N1CC(CC1)(F)F)[N+](=O)[O-] | C10H10ClF2N3O2
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Chloro-5-(3,3-difluoropyrrolidin-1-yl)benzene-1,2-diamine dihydrochloride | Cl.Cl.ClC=1C=C(C(=CC1N1CC(CC1)(F)F)N)N | InChI=1S/C10H12ClF2N3.2ClH/c11-6-3-7(14)8(15)4-9(6)16-2-1-10(12,13)5-16;;/h3-4H,1-2,5,14-15H2;2*1H
